US07781591B2
A solution of 5-(3,4-dimethoxyphenyl)-4-hydroxynicotinonitrile (4 g, 15.7 mmol) in phosphorus oxychloride (POCl3, 25 mL) was heated at 125° C. for 1.5 h, then cooled to r.t. and poured into an ice/3 N sodium hydroxide (NaOH)/EtOAc mixture. The mixture was stirred and the layers separated. The organic layer was dried over magnesium sulfate (MgSO4), filtered and concentrated to give 4-chloro-5-(3,4-dimethoxyphenyl)nicotinonitrile (3.9 g, 91%) as a brown solid.

reactant | 5-(3,4-dimethoxyphenyl)-4-hydroxynicotinonitrile | 15.7 mmol, 4 g | COC=1C=C(C=CC1OC)C=1C=NC=C(C#N)C1O | C14H12N2O3
reactant | phosphorus oxychloride | 25 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-5-(3,4-dimethoxyphenyl)nicotinonitrile | 3.9 g, 91% | ClC1=C(C=NC=C1C#N)C1=CC(=C(C=C1)OC)OC | C14H11ClN2O2
